US06127374
A suspension of crude 4-chloro-6-nitroquinazoline hydrochloride (5 mmol) (Morley J. S. and Simpson J. C. E., J. Chem. Soc., 1948:360) was refluxed under nitrogen with stirring in isopropanol (10 mL) containing 4-benzyloxyaniline (999 mg, 5 mmol) and N,N-dimethylaniline (1.209 g, 10 mmol) for 3 hours. The mixture was allowed to cool to 25° C., and the precipitate was collected by Buchner filtration, rinsed with isopropanol (2×10 mL), and dried at 60° C. in a vacuum oven to give 6-amino-4-(4-benzyloxyanilino)quinazoline hydrochloride (1.675 g, 82%) as a mustard yellow solid; mp 246°248° C. Calculated for C21H16N4O3.HCl: C, 61.69; H, 4.19; N, 13.71%. Found: C, 61.72; H, 4.22; N; 13.52%. 1H NMR (DMSO-d6): δ11.98 (1 H, brs), 9.85 (1 H, d, J=2.2 Hz), 8.94 (1 H, s), 8.76 (1 H, dd, J=2.3, 9.1 Hz), 8.15 (1 H, d, J=9.3 Hz), 7.65 (2 H, d, J=9.0 Hz), 7.48 (2 H, d, J=7.0 Hz), 7.41 (2 H, t, J=7.4 Hz), 7.31 (1 H, t, J=7.4 Hz), 7.15 (2 H, d, J=9.1 Hz), 5.16 (2 H, s). Mass spectrum (APCI) 373 (100 MH+).

reactant | 4-chloro-6-nitroquinazoline hydrochloride | 5 mmol | Cl.ClC1=NC=NC2=CC=C(C=C12)[N+](=O)[O-]
reactant | 4-benzyloxyaniline | 5 mmol, 999 mg | C(C1=CC=CC=C1)OC1=CC=C(N)C=C1 | C13H13NO
reactant | N,N-dimethylaniline | 10 mmol, 1.209 g | CN(C1=CC=CC=C1)C | C8H11N
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | 6-amino-4-(4-benzyloxyanilino)quinazoline hydrochloride | 1.675 g, 82% | Cl.NC=1C=C2C(=NC=NC2=CC1)NC1=CC=C(C=C1)OCC1=CC=CC=C1 | InChI=1S/C21H18N4O.ClH/c22-16-6-11-20-19(12-16)21(24-14-23-20)25-17-7-9-18(10-8-17)26-13-15-4-2-1-3-5-15;/h1-12,14H,13,22H2,(H,23,24,25);1H
